US06369110B1
A solution of 1-(4-methylphenyl)butan-3-one (11.4 g, 70.3 mmol) in methanol (80 ml) was cooled, followed by adding thereto sodium tetrahydroborate (1.51 g, 40.0 mmol), and the resulting mixture was stirred at 0° C. for 2 hours. The reaction mixture was added to 1N hydrochloric acid, and the methanol was distilled off under reduced pressure and the residue was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain 11.7 g of 1-(4-methylphenyl)butan-3-ol.

reactant | 1-(4-methylphenyl)butan-3-one | 70.3 mmol, 11.4 g | CC1=CC=C(C=C1)CCC(C)=O | C11H14O
reactant | sodium tetrahydroborate | 40.0 mmol, 1.51 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 1-(4-methylphenyl)butan-3-ol | 11.7 g | CC1=CC=C(C=C1)CCC(C)O | C11H16O
